US07691867B2
A solution of (4-nitro-1H-pyrazol-1-yl)acetic acid (2.0 g, 11.7 mmol) in toluene (40 ml) was heated to 80° C. and then N,N-dimethylformamide di-tert-butyl acetal (7.0 g, 34.5 mmol) was added dropwise over 1 hour. The reaction mixture was heated at 80° C. for a further 20 minutes and then allowed to cool to room temperature. The mixture was concentrated and the residue purified by silica gel chromatography eluting with 50% methyl tert-butyl ether in iso-hexane to give tert-butyl (4-nitro-1H-pyrazol-1-yl)acetate (2.21 g, 83% yield) as a colourless solid:

reactant | (4-nitro-1H-pyrazol-1-yl)acetic acid | 11.7 mmol, 2.0 g | [N+](=O)([O-])C=1C=NN(C1)CC(=O)O | C5H5N3O4
reactant | N,N-dimethylformamide di-tert-butyl acetal | 34.5 mmol, 7.0 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (4-nitro-1H-pyrazol-1-yl)acetate | 2.21 g, 83% yield | [N+](=O)([O-])C=1C=NN(C1)CC(=O)OC(C)(C)C | C9H13N3O4
